* source CE AMPLIFIER
C_C1         N00332 N00339  1uF  TC=0,0 
C_C2         N00379 N00422  0.5uF  TC=0,0 
R_R1         N00339 N00362  1k TC=0,0 
R_R2         0 N00339  1k TC=0,0 
R_R3         N00379 N00362  1k TC=0,0 
R_R4         0 N00383  1k TC=0,0 
V_V1         N00362 0 10
Q_Q1         N00379 N00339 N00383 Q2N2222
R_R5         0 N00422  1k TC=0,0 
C_C3         0 N00383  100uF  TC=0,0 
V_V2         N00332 0 DC 0Vdc AC 50mV 
